US05780668
20 g (29 mmol) 3,5-diacetylamino-2,4,6-triiodobenzoic acid-2,3-dihydroxypropyl ester, which can be obtained from the sodium salt of 3,5-diacetylamino-2,4,6-triiodobenzoic acid by reaction with 3-chloropropane-1,2-diol at 105° C. (analogous to Organikum, 12th Edition, Deutscher Verlag der Wissenschaften, Berlin 1973, p.227 et seq.), are dissolved in 80 ml absolute pyridine and cooled to -10° C. To this solution is added dropwise 20 g (130 mmol) of commercially available methacrylic acid anhydride (Fluka) and the mixture is then stirred overnight at room temperature. The resulting clear reaction mixture is mixed with 1 l dilute hydrochloric acid and the white precipitate which forms is filtered off, washed with water to neutral and then reprecipitated from methanol/water. After drying in a fine vacuum (approx. 1 mbar, at room temperature) to a constant weight, 16.1 g (67.1%) colourless powder of amorphous appearance with a DSC melting point of 207° C. is obtained. 1 g of the substance is compressed as described in Example 1 into a tablet and irradiated; there is no discoloration.

reactant | sodium | [Na] | Na
reactant | 3,5-diacetylamino-2,4,6-triiodobenzoic acid | C(C)(=O)NC=1C(=C(C(=O)O)C(=C(C1I)NC(C)=O)I)I | C11H9I3N2O4
reactant | 3-chloropropane-1,2-diol | ClCC(CO)O | C3H7ClO2
product | 3,5-diacetylamino-2,4,6-triiodobenzoic acid-2,3-dihydroxypropyl ester | 29 mmol, 20 g | OC(COC(C1=C(C(=C(C(=C1I)NC(C)=O)I)NC(C)=O)I)=O)CO | C14H15I3N2O6
